US05753664
2,3-Dichloro-5-methyl-1-[4-(4-trifluoromethylbenzoyl) benzyl]-1H-pyrrolo[2,3-d]pyridazin-4(5H)-one
A solution of 2,3-dichloro-5-methyl-1H-pyrrolo [2,3-d]pyridazin-4(5H)-one (404 mg) in DMF (70 ml) was dripped into a suspension of 60% sodium hydride-oil (96 mg) in DMF (10 ml) on an ice-water bath. The mixture was stirred at room temperature for 2 hours, after which a solution of 4-(4-trifluoromethylbenzoyl)benzyl bromide (754 mg) in DMF (15 ml) was added and the mixture was further stirred at room temperature for 15 hours. The reaction was stopped by adding water and the reaction mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (developer; n-hexane: ethyl acetate=1:1) to provide the title compound as white powder (448 mg, yield 47%).

reactant | 2,3-dichloro-5-methyl-1H-pyrrolo [2,3-d]pyridazin-4(5H)-one | 404 mg | ClC1=C(C2=C(C=NN(C2=O)C)N1)Cl | C7H5Cl2N3O
reactant | sodium hydride | 96 mg | [H-].[Na+]
reactant | 4-(4-trifluoromethylbenzoyl)benzyl bromide | 754 mg | FC(C1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1)(F)F | C15H10BrF3O
reactant | water | O | H2O
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2,3-Dichloro-5-methyl-1-[4-(4-trifluoromethylbenzoyl) benzyl]-1H-pyrrolo[2,3-d]pyridazin-4(5H)-one | 448 mg, yield 47% | ClC1=C(C2=C(C=NN(C2=O)C)N1CC1=CC=C(C=C1)C(C1=CC=C(C=C1)C(F)(F)F)=O)Cl | C22H14Cl2F3N3O2
